US04082850
Reaction of 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-acetic acid, Example 2, with n-butanol as described in Example 5 provides n-butyl 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-acetate.

reactant | 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-acetic acid | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)O | C16H12O4
solvent | n-butanol | C(CCC)O | C4H10O
product | n-butyl 6,11-dihydro-11-oxodibenz[b,e]oxepin-2-acetate | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)OCCCC | C20H20O4
